US07358373B2
4-Isopropyl-benzoic acid (5.00 g, 30.0 mmol) was dissolved in 20 mL of 10% potassium hydroxide in water solution. To this solution was added 480 mL of 0.2 N aqueous potassium hydroxide solution, followed by a solution of potassium permanganate (9.65 g, 60.0 mmol) in 500 mL of water. The mixture was stirred at 70° C. for one hour. To the reaction mixture was added a few drops of glycerol, and the resulting mixture was cooled to 0° C. Solid residues were removed by filtration, and the filtrate was acidified to pH 1 and extracted twice with ether. The ether extracts were combined, rinsed once with brine and dried over magnesium sulfate and concentrated in vacuo. The concentrate was washed with carbon tetrachloride and recrystallized from water to give 2.2 g (12.2 mmol) of 4-(1-hydroxy-1-methyl-ethyl)-benzoic acid.

reactant | 4-Isopropyl-benzoic acid | 30.0 mmol, 5.00 g | C(C)(C)C1=CC=C(C(=O)O)C=C1 | C10H12O2
reactant | potassium permanganate | 60.0 mmol, 9.65 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | potassium hydroxide | 20 mL | [OH-].[K+]
solvent | water | O | H2O
solvent | water | 500 mL | O | H2O
catalyst | glycerol | a few drops | OCC(O)CO | C3H8O3
solvent | potassium hydroxide | 0.2 N, 480 mL | [OH-].[K+]
product | 4-(1-hydroxy-1-methyl-ethyl)-benzoic acid | 12.2 mmol, 2.2 g | OC(C)(C)C1=CC=C(C(=O)O)C=C1 | C10H12O3
